US07169817B2
Step D: Acetic Acid 2-acetoxymethyl-2-acetylamino-4-(4′-acetylbiphenyl-4-yl)-butyl ester
To a suspension of AlCl3 (16 mmol) in DCE (20 mL) is added AcCl (8 mmol) in one portion. After stirring at room temperature for 30 min, to the solution is added acetic acid 2-acetoxymethyl-2-acetylamino-4-biphenyl-4-yl-butyl ester (2 mmol) in DCE (5 mL). After an additional 30 min, the mixture is poured into ice-cold 1 N NaOH and is extracted with DCM. The organic phase is washed with 1 N HCl, brine and dried over Na2SO4. After concentrating, the crude material is purified by column chromatography using EtOAc/hexane (2/1) to give the desired product as a white solid. MS: (ES+): 439.2 (M+1)+.

reactant | AlCl3 | 16 mmol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | AcCl | 8 mmol | C(=O)(C)Cl | C2H3ClO
reactant | acetic acid 2-acetoxymethyl-2-acetylamino-4-biphenyl-4-yl-butyl ester | 2 mmol | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C1=CC=CC=C1)NC(C)=O | C23H27NO5
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | Acetic Acid 2-acetoxymethyl-2-acetylamino-4-(4′-acetylbiphenyl-4-yl)-butyl ester | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O)NC(C)=O | C25H29NO6
